US06358973B1
2-(3,5-Dichloro-pyridin-4-yl)-N-[2-(3-methoxy-phenyl)-pentyl]-acetamide
By working in a way similar to that described in example 4 but using (3,5-dichloro-pyridin-4-yl)-acetic acid (2.06 g, 10 mmoles), carbonyldiimidazole (1.78 g, 11 mmoles), THF (30 ml) and 2-(3-methoxy-phenyl)-pentylamine (1.93 g 10 mmoles), obtained as described in example 17, 3.7 g of the title compound were obtained (yield: 97%), m.p.: 97-98° C.

reactant | (3,5-dichloro-pyridin-4-yl)-acetic acid | 10 mmoles, 2.06 g | ClC=1C=NC=C(C1CC(=O)O)Cl | C7H5Cl2NO2
reactant | carbonyldiimidazole | 11 mmoles, 1.78 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-(3-methoxy-phenyl)-pentylamine | 10 mmoles, 1.93 g | COC=1C=C(C=CC1)C(CN)CCC | C12H19NO
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 2-(3,5-Dichloro-pyridin-4-yl)-N-[2-(3-methoxy-phenyl)-pentyl]-acetamide | 3.7 g, yield: 97% | ClC=1C=NC=C(C1CC(=O)NCC(CCC)C1=CC(=CC=C1)OC)Cl | C19H22Cl2N2O2
